US05962685
Synthesis of 5-[2-(4,6-dimethoxypyrimidine-2-yloxy)-6-(N-cyclohexylcarbamoyloxy)phenyl]oxazole (Compound No. 3-162)
To methylene chloride solution containing 0.15 g 5-[2-(4,6-dimethoxypyrimidine-2-yloxy)-6-hydroxyphenyl]oxazole, was added 0.07 g triethylamine. The solution reacted was stirred at room temperature for 15 min., then 0.08 g cyclohexyl isocyanate was added thereto. The solution was further stirred for 1.5 hours, and the solution reacted was then added with water and extracted with ethyl acetate. The organic layer obtained was washed with water and saturated saline solution in turn and then dried by using anhydrous magnesium sulfate. The solvent used was removed by distillation under reduced pressure, and the oily substance obtained was recrystallized in a mixed-solvent consisting of n-hexane and diethyl ether, affording the objective substance in an amount of 0.17 g.

reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | 5-[2-(4,6-dimethoxypyrimidine-2-yloxy)-6-hydroxyphenyl]oxazole | 0.15 g | COC1=NC(=NC(=C1)OC)OC1=C(C(=CC=C1)O)C1=CN=CO1 | C15H13N3O5
reactant | triethylamine | 0.07 g | C(C)N(CC)CC | C6H15N
reactant | cyclohexyl isocyanate | 0.08 g | C1(CCCCC1)N=C=O | C7H11NO
solvent | water | O | H2O
product | 5-[2-(4,6-dimethoxypyrimidine-2-yloxy)-6-(N-cyclohexylcarbamoyloxy)phenyl]oxazole | COC1=NC(=NC(=C1)OC)OC1=C(C(=CC=C1)OC(NC1CCCCC1)=O)C1=CN=CO1 | C22H24N4O6
